US05556864
23(a) 2-{2-[4-(3-Methoxymethoxyphenyl)butyl]phenoxymethyl}oxirane
Following a procedure similar to that described in Example 1(a), 2.87 g of 2-[4-(3-methoxymethoxyphenyl)butyl]phenol (prepared as described in Preparation 5), 1.18 g of potassium t-butoxide and 1.67 g of epibromohydrin were reacted in 30 ml of dimethylacetamide. The crude product, extracted as described in Example 1(a), was purified as described in Example 1(a), to give 2.05 g (yield 60%) of the title compound as a colorless oil.

reactant | 2-[4-(3-methoxymethoxyphenyl)butyl]phenol | 2.87 g | COCOC=1C=C(C=CC1)CCCCC1=C(C=CC=C1)O | C18H22O3
reactant | potassium t-butoxide | 1.18 g | CC(C)([O-])C.[K+]
reactant | epibromohydrin | 1.67 g | C(Br)C1CO1 | C3H5BrO
solvent | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
product | 2-{2-[4-(3-Methoxymethoxyphenyl)butyl]phenoxymethyl}oxirane | 2.05 g, yield 60% | COCOC=1C=C(C=CC1)CCCCC1=C(OCC2OC2)C=CC=C1 | C21H26O4
